US04061746
Hexahydro-2-[(trans-2-phenylcyclopentyl)imino]azepinehydrochloride
Following the procedure of Example 23, only substituting for cis-2-phenylcyclopentylamine hydrochloride the appropriate molar equivalent amount of trans-2-phenylcyclopentylamine hydrochloride, M.P. 147°-149° C, the desired product is obtained, M.P. 192°-195° C.

reactant | cis-2-phenylcyclopentylamine hydrochloride | Cl.C1(=CC=CC=C1)[C@@H]1[C@@H](CCC1)N
reactant | trans-2-phenylcyclopentylamine hydrochloride | Cl.C1(=CC=CC=C1)[C@H]1[C@@H](CCC1)N
product | Hexahydro-2-[(trans-2-phenylcyclopentyl)imino]azepinehydrochloride | Cl.C1(=CC=CC=C1)[C@H]1[C@@H](CCC1)N=C1NCCCCC1 | InChI=1S/C17H24N2.ClH/c1-3-8-14(9-4-1)15-10-7-11-16(15)19-17-12-5-2-6-13-18-17;/h1,3-4,8-9,15-16H,2,5-7,10-13H2,(H,18,19);1H/t15-,16+;/m0./s1
